US05521147
To a stirred solution of 3.7 grams (0.022 mole) of 8-amino-3,4-dihydro-7-fluoro-2H-1-benzopyran in 50 mL of N,N-dimethylformamide was added dropwise a solution of 3.0 grams (0.022 mole) of N-chlorosuccinimide in about 20 mL of N,N-dimethylformamide. Upon completion of the addition, the reaction mixture was stirred for about 90 minutes and poured into an aqueous 10% lithium chloride solution. The mixture was extracted with diethyl ether. An insoluble material was collected by filtration and dissolved in methylene chloride. The methylene chloride solution was washed with water and dried with magnesium sulfate. The mixture was filtered, and the filtrate was set aside. The diethyl ether extract was washed with an aqueous 10% lithium chloride solution and dried with magnesium sulfate. The mixture was filtered, and the filtrate was combined with the methylene chloride filtrate. The combination was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel with 1:4 ethyl acetate:hexane as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 2.2 grams of 8-amino-5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran. The NMR spectrum was consistent with the proposed structure.

reactant | 8-amino-3,4-dihydro-7-fluoro-2H-1-benzopyran | 0.022 mole, 3.7 grams | NC1=C(C=CC=2CCCOC21)F | C9H10FNO
reactant | N-chlorosuccinimide | 0.022 mole, 3.0 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | lithium chloride | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | about 20 mL | CN(C=O)C | C3H7NO
product | 8-amino-5-chloro-3,4-dihydro-7-fluoro-2H-1-benzopyran | 2.2 grams | NC1=C(C=C(C=2CCCOC21)Cl)F | C9H9ClFNO
